### PR TITLE
use datatype package for abstract endpoint

### PR DESCRIPTION
**Pull request by mktnk3**
This adds a common selector `ep_queue` for `SendEP` and `RecvEP` in the definition of `endpoint` in Structures_A, consequently triggering the datatype package to generate a bunch of additional facts.

`get_ep_queue` and `valid_ep` are redefined using `ep_queue`. `queue_of` is removed because it is now a duplication of `ep_queue`.

Proof updates are mostly due to the above definition changes, and also from using `endpoint.case_eq_if` in place of locally defined lemmas to simplify the case distinction. Various versions are essentially the same and easily replaced by the `case_eq_if` lemma.

One interesting observation is that the Haskell `endpoint` is defined in a suboptimal order - first `RecvEP`, then `IdleEP`, followed by `SendEP`. It uses a shared queue selector, which is good, but we'd want to swap `RecvEP` and `IdleEP` so that the `case_eq_if` lemma will have `if IdleEP` in the top level (because this is what we mostly use).

### CODE REVIEW

File: proof/invariant-abstract/Invariants_AI.thy [hunk 1]
```diff
@@ -693,10 +693,7 @@ definition
 where
   "valid_ep ep s \<equiv> case ep of
     IdleEP \<Rightarrow> True
-  | SendEP ts \<Rightarrow>
-      (ts \<noteq> [] \<and> (\<forall>t \<in> set ts. tcb_at t s) \<and> distinct ts)
-  | RecvEP ts \<Rightarrow>
-      (ts \<noteq> [] \<and> (\<forall>t \<in> set ts. tcb_at t s) \<and> distinct ts)"
+  | _ \<Rightarrow> (\<lambda>ts. ts \<noteq> [] \<and> (\<forall>t \<in> set ts. tcb_at t s) \<and> distinct ts) (ep_queue ep)"
```
Comment (lsf37) [inline proof/invariant-abstract/Invariants_AI.thy:696]: I'm almost tempted to use `let` here, but the lambda is actually quite nice.

**Review by lsf37 — APPROVED** [review]
I like it.

I'd be also happy with changing the order in Haskell, but the proof update might be more involved, because that will also change the order of goals in `cases` and case splits.

**Comment by mktnk3** [comment]
> I like it.
> 
> I'd be also happy with changing the order in Haskell, but the proof update might be more involved, because that will also change the order of goals in `cases` and case splits.

Yes, it will be of a bit of work, so maybe later. JIRA issue here: https://sel4.atlassian.net/jira/software/c/projects/VER/issues/VER-1407

File: proof/invariant-abstract/Invariants_AI.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/Invariants_AI.thy:696]: This is cool. I'm not sure what `ts` is supposed to abbreviate or remind me of. Would `q` or something make more sense? I'm not sure

File: proof/refine/ARM/IpcCancel_R.thy [hunk 2]
```diff
@@ -2336,74 +2336,12 @@ lemma in_send_ep_queue_TCBBlockedSend:
...
-  apply (clarsimp simp: valid_ep'_def)
-  apply (prop_tac "(t, EPRecv) \<in> state_refs_of' s epPtr")
-   apply (clarsimp simp: state_refs_of'_def obj_at'_def projectKOs)
-  apply (clarsimp simp: sym_refs_def obj_at'_def)
-  apply (fastforce simp: state_refs_of'_def tcb_bound_refs'_def st_tcb_at'_def get_refs_def2
-                         isBlockedOnReceive_def obj_at'_def projectKOs
-                  split: if_splits thread_state.splits)
-  done
-
-lemma IdleEP_versus_SendEP_and_RecvEP:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:2381]: Glad to be rid of these ad hoc lemmas

**Review by michaelmcinerney — APPROVED** [review]
Awesome

File: proof/invariant-abstract/Invariants_AI.thy (hunk 1 above)
Comment (mktnk3) [reply proof/invariant-abstract/Invariants_AI.thy:696]: I suppose that’s meant to mean “(potentially) many `t`’s” just like using `xs` for a list...

Comment (michaelmcinerney) [reply proof/invariant-abstract/Invariants_AI.thy:696]: Ahh. I guess that makes some sense

Comment (lsf37) [reply proof/invariant-abstract/Invariants_AI.thy:696]: The general convention for lists is an `s` suffix for `sequence`, pronounced as plural (many `t`s as @mktnk3 says). So `ts` is a list/sequence of `t`.

Should create a TODO to add that to the conventions file, I thought it was in there already or part of the [general Isabelle naming conventions](https://isabelle.systems/conventions/naming.html), but couldn't find it. It's a tradition from SML and Haskell.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 3]
```diff
@@ -2336,74 +2336,12 @@ lemma in_send_ep_queue_TCBBlockedSend:
...
-   apply (fastforce simp: valid_objs_def valid_obj_def dest!: invs_valid_objs)
-  apply (clarsimp simp: state_refs_of_def valid_ep_def split: option.splits)
-  apply (intro conjI impI allI; (fastforce simp: obj_at_def)?)
-  apply (prop_tac "(t, EPRecv) \<in> state_refs_of s epptr", clarsimp simp: state_refs_of_def)
-  apply (clarsimp simp: sym_refs_def dest!: invs_sym_refs)
-  apply (fastforce simp: state_refs_of_def)
-  done
+(* FIXME : Move *)
+lemma pred_tcb_at_disj:
+  "(pred_tcb_at proj (\<lambda>x. P x \<or> P' x) p s) = (pred_tcb_at proj (\<lambda>x. P x) p s \<or> pred_tcb_at proj (\<lambda>x. P' x) p s)"
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:2341]: Could we quickly do this move now? Or at least to Move_R?

File: proof/refine/ARM/IpcCancel_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/ARM/IpcCancel_R.thy:2381]: Definitely!

**Review by corlewis — APPROVED** [review]

File: proof/refine/ARM/IpcCancel_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/IpcCancel_R.thy:2341]: Surely... and what I discovered is that we actually have this in Invariants_AI:
```
lemma pred_tcb_at_disj:
  "(pred_tcb_at proj P t s ∨ pred_tcb_at proj Q t s) = pred_tcb_at proj (λa. P a ∨ Q a) t s"
  by (fastforce simp add: pred_tcb_at_def obj_at_def)
```
My natural thinking would go in the way of splitting `pred_tcb_at` with the disjunction, but people have different ideas apparently...

Comment (mktnk3) [reply proof/refine/ARM/IpcCancel_R.thy:2341]: And in its only use in AInvs is with `symmetric`... so I might as well flip it :D
